US07981918B2
(R)-4-Benzyl-3-[(S)-2-(4-benzyloxy-2,6-dimethyl-benzyl)-pent-4-enoyl]-oxazolidin-2-one
Cool a solution of (R)-4-Benzyl-3-pent-4-enoyl-oxazolidin-2-one (4.8 g, 19 mmol) in THF (100 mL) to −78° C. Treat the solution dropwise with 10M LiHMDS in THF (20 mL, 20 mmol) and stir at −78° C. for 30 minutes. Treat the solution with 5-Benzyloxy-2-bromomethyl-1,3-dimethyl-benzene (6.8 g, 22 mmol) and allow to slowly warm to room temperature. The reaction stirs 3 hr at room temperature. Quench the reaction with 1N HCl (aqueous) and extract with Et2O. Wash the organic with brine, dry over MgSO4, filter, and remove the solvent. Purify the crude by silica gel column chromatography using Hexanes:EtOAc to elute the pure product. Remove the solvent to afford 7.0 g (78%) of desired product. MS (m/e): 484 (M+1).

reactant | (R)-4-Benzyl-3-pent-4-enoyl-oxazolidin-2-one | 19 mmol, 4.8 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CCC=C)=O | C15H17NO3
reactant | LiHMDS | 10M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 5-Benzyloxy-2-bromomethyl-1,3-dimethyl-benzene | 22 mmol, 6.8 g | C(C1=CC=CC=C1)OC=1C=C(C(=C(C1)C)CBr)C | C16H17BrO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mmol, 20 mL | C1CCOC1 | C4H8O
product | (R)-4-Benzyl-3-[(S)-2-(4-benzyloxy-2,6-dimethyl-benzyl)-pent-4-enoyl]-oxazolidin-2-one | 7.0 g, 78% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC=C)CC1=C(C=C(C=C1C)OCC1=CC=CC=C1)C)=O | C31H33NO4
